Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfonamides
 
Attending: ___.
 
Chief Complaint:
Diarrhea.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ yo man with h/o CVA and MR who ___ nausea, vomiting 
and diarrhea for 18 hours. He denies ill contacts, but works at 
___ and volunteers at a nursing home so could have come 
into contact with something at either. Also lives in group home 
but denies other residents ill. He notes last episode of 
diarrhea in ED prior to transfer, feels well currently. Denies 
melena or brbpr. He denies feeling dizzy or lightheaded. He has 
no appetite but feels he could keep pills down if needed. He 
denies fevers, chills, ha, visual changes, sob, chest pain, 
palpitations, dysuria, rash, tingling, numbness, weakness, 
myalgias.

In the ED: VS: T 97.4 HR 80 BP 115/50 RR 16 Sat 100% on RA. 
While in the ED had BP reading of 87/74 (prior was 107/47) which 
was 101/56 14 minutes later without significant intervention 
(asymptomatic, got total of 3L NS, HR 92->81). He was given 4mg 
iv and hydrocortizone 100mg iv.

ROS: 10 point review of systems negative except as noted above.
 
Past Medical History:
1) 21-hydroxylase deficiency.   
2) CVA at 6mos of age w/ resultant mental retardation.  
3) h/o diverticulitis since age ___.
4) h/o Guillain ___ syndrome in ___.  
 
Social History:
___
Family History:
Father has AAA.
 
Physical Exam:
VS: T 97.8 HR 84 BP 100/64 RR 18 Sat 96% RA
Gen: Well appearing man in NAD
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: flat
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, non tender, non distended, no heptosplenomegally, 
bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admit labs:
CBC: WBC-6.7 HGB-15.0 HCT-44.2 PLT COUNT-348; diff: NEUTS-70.2* 
___ MONOS-6.1 EOS-2.3 BASOS-0.2
BMP: GLUCOSE-92 UREA N-16 CREAT-1.1 SODIUM-134 POTASSIUM-5.8 
(hemolyzed) repeat->3.9 CHLORIDE-101 TOTAL CO2-___ yo man with diarrhea, transient hypotension.
.
1. Diarrhea: Likely acute viral gastroenteritis based on 
symptoms and duration, however he does have risk of exposure 
given his volunteer work.  He was asymptomatic here and 
tolerated diet well.  He was discharged with supportive care.
.
2. Hypotension: Suspect spurious result given markedly narrow 
pulse pressure.  He had no further abnormal blood pressure 
readings while in house.
.
3. 21-hydroxylase deficiency: Stress dose steroids given 
initially in addition to Florinef.  He was transitioned back to 
his home regimen at discharge
.
Full code.

 
Medications on Admission:
Per ___, pt unable to verify, no answer at group home, 
logicianweb down:
florinef 0.1mg daily
dexamethasone 0.5mg daily
ativan 1mg prn procedure (gets 2 tabs at a time)
 
Discharge Medications:
1. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Dexamethasone 0.5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Compazine 5 mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for nausea.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis
21 hydroxylase deficiency

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
You were admitted with a gastroenteritis.  With supportive care 
and fluids your symptoms improved.  Please continue your home 
medications as you were taking them before.  Please follow up 
with your PCP as soon as possible
 
Followup Instructions:
___